* CIP: Selective Disclosure as of 08/29/2019
*****************************************************************************
* MC33063A-Q1
*****************************************************************************
* (C) Copyright 2017 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: MC33063A-Q1
* Date: 12JUN2017
* Model Type: TRANSIENT 
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: NA
* EVM Users Guide: NA
* Datasheet: SLLS636N -DECEMBER 2004-REVISED JANUARY 2015
* Topologies Supported: Buck, Boost, Inverting Buck Boost
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
*
* Model Usage Notes:
*
* 1. The following features have been modeled
*      a. Switching Characteristics and variation with VIN
*      b. Frequency variation with timing capacitor
*      c. Current limit feature.
* 2. The following features are not modeled.
*      a. Temperature effects.
*      b. Quiscent current.  
*
*****************************************************************************
.SUBCKT MC33063A-Q1_TRANS CII DC GND Ipk SC SE TC VCC  
Q_Q2         SC N16879264 SE QbreakN2 
X_U629         N16737225 CLK N16888275 N16735791 srlatchrhp_basic_gen PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
V_V9         N16747655 GND 3
R_R4         N16879264 SE  100 TC=0,0 
V_V5         N16933723 0 1.25
X_U634         N16755723 N16747467 DISCHG CLK srlatchrhp_basic_gen PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
Q_Q1         DC N16937785 N16879264 QbreakN1 
E_ABM12         CL 0 VALUE {
+  1M*((-10.765-151M*V(VCC))+(45.344+864M*V(VCC))*V(ISENSE)  
+ -(35.99+1.378*V(VCC))*(V(ISENSE)**2)+(8.341+839M*V(VCC))*(V(ISENSE)**3))   }
R_R3         0 N16735791  1Meg TC=0,0 
X_U635         CLK N16821920 INV_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
D_D13         GND TC D_D1 
V_V7         N16747431 0 0.75
D_D12         TC N16747655 D_D1 
E_E2         CII_INT 0 CII GND 1
X_U637         N16933723 CII_INT N16737156 COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
V_V8         N16747437 0 1.25
E_ABM14         ICHG 0 VALUE { IF(V(ISENSE)>0.32,V(CL),V(NCL))    }
R_R5         N16945867 N16946331  10  
E_ABM7         ISENSE 0 VALUE { V(VCC)-V(IPK)    }
G_ABM3I1         N16747655 TC VALUE { IF(V(VCC) > 10m
+  ,IF(V(DISCHG)>0.5,V(ICHG)*0.77,-(224.4U+2.359U*V(VCC))*0.77) , 0)    }
E_E3         N16937785 SE N16946331 0 1
E_ABM13         NCL 0 VALUE {
+  1M/(ABS((27.475-195M*V(VCC))+(36.002+244M*V(VCC))*V(ISENSE)  
+ -(302.302+651M*V(VCC))*(V(ISENSE)**2))+1F)   }
E_E1         CT 0 TC GND 1
X_U3         N16747431 CT N16755723 COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
C_C1         N16946331 0  1n  TC=0,0 
X_U630         N16737156 N16821920 N16737225 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
E_ABM8         N16945867 0 VALUE { IF(V(N16888275)>0.5,5,0)    }
X_U5         CT N16747437 N16747467 COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
.ENDS MC33063A-Q1_TRANS
*$
.model QbreakN2 npn
+ bf=50
*$
.subckt srlatchrhp_basic_gen s r q qb params: vdd=1 vss=0 vthresh=0.5 
gq 0 qint value = {if(v(r) > {vthresh},-5,if(v(s)>{vthresh},5, 0))}
cqint qint 0 1n
rqint qint 0 1000meg
d_d10 qint my5 d_d1
v1 my5 0 {vdd}
d_d11 myvss qint d_d1
v2 myvss 0 {vss} 
eq qqq 0 qint 0 1
x3 qqq qqqd1 buf_basic_gen params: vdd={vdd} vss={vss} vthresh={vthresh}
rqq qqqd1 q 1
eqb qbr 0 value = {if( v(q) > {vthresh}, {vss},{vdd})}
rqb qbr qb 1 
cdummy1 q 0 1n 
cdummy2 qb 0 1n
.ic v(qint) {vss}
.model d_d1 d
+ is=1e-015
+ tt=1e-011
+ rs=0.05
+ n=0.1
.ends srlatchrhp_basic_gen
*$
.model QbreakN1 npn
+ bf=50
+ rc=0.125
+ re=0.125
+ tf=1e-008
*$
.model D_D1 d
+ is=1e-015
+ tt=1e-012
+ rs=0.01
+ n=0.01
*$
.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS INV_BASIC_GEN
*$
.SUBCKT COMP_BASIC_GEN INP INM Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
E_ABM Yint 0 VALUE {IF (V(INP) > 
+ V(INM), {VDD},{VSS})}
R1 Yint Y 1
C1 Y 0 1n
.ENDS COMP_BASIC_GEN
*$
.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND2_BASIC_GEN
*$
.SUBCKT LDCR IN OUT
+ PARAMs:  L=1u DCR=0.01 IC=0
L	IN 1  {L} IC={IC}
RDCR	1 OUT {DCR}
.ENDS LDCR
*$
.SUBCKT CESR IN OUT
+ PARAMs:  C=100u ESR=0.01 X=2 IC=0
C	IN 1  {C*X} IC={IC}
RESR	1 OUT {ESR/X}
.ENDS CESR
*$
.SUBCKT BUF_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS BUF_BASIC_GEN
*$